US05270311
An intimate mixture of 3-amino-5-(2-furyl)-1,2,4-triazole (33.0 g) and dimethyl N-cyanodithioiminocarbonate (33.0 g) was heated at 170° C. for 1 hour, under a slow stream of argon. After cooling, the resulting solid was purified by column chromatography on silica (600 g) eluting with an increasing amount of ethyl acetate in dichloromethane (5-10% v/v) to give 7-amino-2-(2-furyl)-5-methylthio-[1,2,4]triazolo[1,5-a][1,3,5]triazine as a colourless solid (11.1 g), essentially pure by TLC, which was used without further purification. [A small amount of the above solid was recrystallised from ethanol to give, crystals, m.p. 238°-240° C.; microanalysis, found: C,44.0; H,3.3; N,33.7; C9H8N6SO. 0.05C2H5OH requires C,43.6; H,3.3; N,33.6; NMR 1.05 and 3.4 (t+q, ethanol of crystallisation), 2.5 (s, 3H, CH3S-), 6.7(dd, 1H, furyl-4H), 7.2(d, 1H, furyl-3H), 7.7(d, 1H, furyl-5H) 8.7-9.0(br d, 2H, NH2); m/e 248 (M+).

reactant | 3-amino-5-(2-furyl)-1,2,4-triazole | 33.0 g | NC1=NNC(=N1)C=1OC=CC1 | C6H6N4O
reactant | dimethyl N-cyanodithioiminocarbonate | 33.0 g | CSC(=NC#N)SC | C4H6N2S2
product | 7-amino-2-(2-furyl)-5-methylthio-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 11.1 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)SC | C9H8N6OS
